US06284796B1
Preparation of 6-bromo-2-t-butyloxynaphthalene
To a solution of 6-bromo-2-hydroxynaphthalene (1.5 g, 6.72 mmol) and liquefied iso-butylene (6 mL) in dry dichloromethane (6 mL) at −78° C. was added triflic acid (6 drops). The resulting solution was stirred for 4 hours as it warmed from −78 to 0° C. The reaction was quenched by adding excess saturated aqueous sodium bicarbonate and partitioned between ethyl acetate and brine. The organic layer was washed with brine, dried (Na2SO4), filtered, and concentrated under vacuum. Purification on silica gel with 25% ether/hexanes gave the title compound (1.64 g, 80%) as a colorless oil.

reactant | 6-bromo-2-hydroxynaphthalene | 6.72 mmol, 1.5 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | iso-butylene | 6 mL | CC(C)=C | C4H8
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
catalyst | triflic acid | 6 drops | OS(=O)(=O)C(F)(F)F | CHF3O3S
product | 6-bromo-2-t-butyloxynaphthalene | 1.64 g, 80% | BrC=1C=C2C=CC(=CC2=CC1)OC(C)(C)C | C14H15BrO
